US07732463B2
1-Bromo-2-(4-methyl-phenylsulfanyl)-5-trifluoromethyl-benzene (intermediate for 2h).
Prepared from 4-methyl-benzenethiol and 3-bromo-4-iodo-benzotrifluoride.

reactant | 4-methyl-benzenethiol | CC1=CC=C(C=C1)S | C7H8S
reactant | 3-bromo-4-iodo-benzotrifluoride | BrC=1C=C(C=CC1I)C(F)(F)F | C7H3BrF3I
product | 1-Bromo-2-(4-methyl-phenylsulfanyl)-5-trifluoromethyl-benzene | BrC1=C(C=CC(=C1)C(F)(F)F)SC1=CC=C(C=C1)C | C14H10BrF3S
